US08022099B2
d) [(3RS,4SR)-1-Benzyl-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester
To a stirred solution of [(3RS,4SR)-1-benzyl-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-amine (2.75 g, 9.14 mmol) in CH2Cl2 (25 ml) was added Et3N (2.50 ml, 18.2 mmol), DMAP (112 mg, 0.91 mmol) and (Boc)2O (2.39 g, 10.95 mmol). After one hour at RT, the organic phase was washed with H2O, then dried over Na2SO4. Column chromatography (Heptane/EtOAc: 3/1) afforded 2.60 g (71%) of the title compound as a yellow oil. ES-MS m/e: 401.3 (M+H+).

reactant | [(3RS,4SR)-1-benzyl-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-amine | 9.14 mmol, 2.75 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC=C(C=C1)Cl)NC | C18H21ClN2
reactant | Et3N | 18.2 mmol, 2.50 ml | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 10.95 mmol, 2.39 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.91 mmol, 112 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [(3RS,4SR)-1-Benzyl-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester | 2.60 g, 71% | C(C)(C)(C)OC(N(C)C1CN(CC1C1=CC=C(C=C1)Cl)CC1=CC=CC=C1)=O | C23H29ClN2O2
